US09108932B2
A 500 mL, three-necked flask, equipped with a magnetic stir bar, nitrogen inlet, addition funnel, and a temperature probe was charged with anhydrous EtOH (125 mL). The vessel was cooled to 5° C. and acetyl chloride (97 mL, 1332 mmol) was added at a rate that maintained the temperature range of 5 to 10° C. When the addition was complete, 4-cyanobenzoic acid (25 g, 167 mmol) was added in portions over 15 min. No exotherm was noted during the addition of the solid. When the addition was complete, the white suspension was allowed to warm to 25° C. The reaction vessel was sealed with Parafilm® and stirred at 23° C. for 18 h. The Write suspension was vacuum filtered and the solid was rinsed with EtOH and dried to constant mass, furnishing 4-(ethoxy(imino)methyl)benzoic acid hydrochloride as a white solid (25 g, 65%): 1H NMR (400 MHz, DMSO-d6) δ 12.44 (br s, 1H), 8.26 (m, 2H), 8.14 (m, 2H), 4.70 (q, 2H), 1.51 (t, 3H). The filtrate was concentrated and treated with ether to give a white solid. The solid was collected by vacuum filtration and rinsed with ether to give ethyl 4-(ethoxy(imino)methyl)benzoate hydrochloride as a white solid (11 g, 25%): 1H NMR (400 MHz, DMSO-d6) δ 12.07 (br s, 1H), 8.24 (m, 2H), 8.15 (m, 2H), 4.66 (q, 3H), 4.37 (q, 3H), 1.49 (t, 3H), 1.35 (q, 3H).

reactant | acetyl chloride | 1332 mmol, 97 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-cyanobenzoic acid | 167 mmol, 25 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
solvent | EtOH | 125 mL | CCO | C2H6O
product | 4-(ethoxy(imino)methyl)benzoic acid hydrochloride | 25 g, 65% | Cl.C(C)OC(C1=CC=C(C(=O)O)C=C1)=N | InChI=1S/C10H11NO3.ClH/c1-2-14-9(11)7-3-5-8(6-4-7)10(12)13;/h3-6,11H,2H2,1H3,(H,12,13);1H
